US06124317
2-Benzyl-1-(5-phenoxypentyl)piperidine hydrobromide. From a mixture of 2-benzylpiperidine hydrochloride (500 mg, 2.36 mmol), K2CO3 (652 mg, 4.72 mmol, ) and 1-bromo-5-phenoxypentane (860 mg, 3.54 mmol) in CH3CN (25 mL) there was obtained the free amine as a clear amber oil; (568 mg, 71%); 1H NMR (CDCl3), 1.15-1.90 (m, 12 H), 2.29-2.89 (m, 6 H), 3.08 (dd, J1=12.6 Hz, J2=3.3 Hz, 1 H), 3.97 (t, J=6.3 Hz, 2 H), 6.85-7.33 (m, 10 H).

reactant | 2-Benzyl-1-(5-phenoxypentyl)piperidine hydrobromide | Br.C(C1=CC=CC=C1)C1N(CCCC1)CCCCCOC1=CC=CC=C1
reactant | 2-benzylpiperidine hydrochloride | 2.36 mmol, 500 mg | Cl.C(C1=CC=CC=C1)C1NCCCC1
reactant | K2CO3 | 4.72 mmol, 652 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | 1-bromo-5-phenoxypentane | 3.54 mmol, 860 mg | BrCCCCCOC1=CC=CC=C1 | C11H15BrO
